US06927221B2
Ethyl 2-[7-[(1-Ethylpropyl)amino]-3-mesityl-2,5-dimethylpyrazolo[1,5-a]pyrimidin-6-yl]acetate
3-Aminopentane (0.6 mL) was added to a solution of ethyl 2-(7-chloro-3-mesityl-2,5-dimethylpyrazolo[1,5-a]pyrimidin-6-yl)acetate (130 mg) in acetonitrile (5 mL), followed by heating under reflux overnight. After cooling the reaction solution, water was added thereto. The mixture was extracted twice with ethylacetate, and the organic layer was washed with an aqueous saturated solution of sodium bicarbonate, and then dried over anhydrous magnesium sulfate. The solvent was evaporated, and the residue was purified by silica gel column chromatography, to give the title compound (84 mg) as a green oil.

reactant | 3-Aminopentane | 0.6 mL | NC(CC)CC | C5H13N
reactant | ethyl 2-(7-chloro-3-mesityl-2,5-dimethylpyrazolo[1,5-a]pyrimidin-6-yl)acetate | 130 mg | ClC1=C(C(=NC=2N1N=C(C2C2=C(C=C(C=C2C)C)C)C)C)CC(=O)OCC | C21H24ClN3O2
reactant | water | O | H2O
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | Ethyl 2-[7-[(1-Ethylpropyl)amino]-3-mesityl-2,5-dimethylpyrazolo[1,5-a]pyrimidin-6-yl]acetate | 84 mg | C(C)C(CC)NC1=C(C(=NC=2N1N=C(C2C2=C(C=C(C=C2C)C)C)C)C)CC(=O)OCC | C26H36N4O2
